US06762320B2
b) 4-[2-(4-Chloro-phenyl)-ethyl]-phenylamine
A solution of 5.0 g (19.2 mmol) 4-[2-(4-chloro-phenyl)-vinyl]-1-nitro-benzene in 100 ml ethyl acetate is treated with 200 mg of platinum 5% on charcoal. Hydrogenation is performed at room temperature and normal pressure overnight. The catalyst is filtered off and the filtrate evaporated to yield 3.17 g (71%) of a slightly yellow solid. MS: m/e=231.9 (M++H).

reactant | 4-[2-(4-chloro-phenyl)-vinyl]-1-nitro-benzene | 19.2 mmol, 5.0 g | ClC1=CC=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C14H10ClNO2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum | 200 mg | [Pt] | Pt
product | 4-[2-(4-Chloro-phenyl)-ethyl]-phenylamine | ClC1=CC=C(C=C1)CCC1=CC=C(C=C1)N | C14H14ClN
